US05536718
N-[5-(pyrido[3, 2-e]pyrrolo[1, 2-a]pyrazin-5(6H) -ylcarbonyl)-2-pyridinyl]-5-fluoro-2-methylbenzamide
To a chilled (0° C.) solution of 0.343 g of 5, 6-dihydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine and 1.1 ml of triethylamine in 5 ml of dichloromethane is added 1.17 g of 6-(5-fluoro-2-methylbenzoyl)aminopyridine-3-carbonyl chloride. The mixture is stirred at room temperature for 16 hours. To the mixture is added 50 ml of dichloromethane and 20 ml of water. The organic layer is separated and washed with 20 ml each of 1M NaHCO3 and brine. The organic layer is dried (Na2SO4) and passed through a thin pad of hydrous magnesium silicate and the pad washed with dichloromethane. The filtrate is concentrated and the residue chromatographed on silica gel prep-plates with ethyl acetate-hexane (1:1) as eluent. The product is crystallized from ethyl acetate to give 0.38 g of white crystals, m.p. 226°-234° C.

reactant | 5, 6-dihydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine | 0.343 g | N1=CC=CC=2NCC=3N(C21)C=CC3 | C10H9N3
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | 6-(5-fluoro-2-methylbenzoyl)aminopyridine-3-carbonyl chloride | 1.17 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[5-(pyrido[3, 2-e]pyrrolo[1, 2-a]pyrazin-5(6H) -ylcarbonyl)-2-pyridinyl]-5-fluoro-2-methylbenzamide | 0.38 g | N1=CC=CC=2N(CC=3N(C21)C=CC3)C(=O)C=3C=CC(=NC3)NC(C3=C(C=CC(=C3)F)C)=O | C24H18FN5O2
